US08039450B2
2-(2,2-Difluoro-ethoxy)-6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile (D127)
A solution of NaBH4 (0.100 g, 2.6 mmol) in anhydrous methanol (20 mL) was added to a solution of 2-(2,2-difluoro-ethoxy)-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile (5.20 g, 12.1 mmol) in CH2Cl2 (80 mL) and stirred at room temperature for 5 minutes. Solid NaBH4 (0.815 g, 21.5 mmol) was then added portionwise over 30 minutes to the reaction at room temperature and the reaction stirred for an additional 30 minutes. The reaction was quenched by the addition of 60% aqueous acetic acid (5 mL), stirred for 30 minutes at room temperature then concentrated in vacuo. The residue was purified by silica gel flash column chromatography (AcOH/MeOH/CH2Cl2 1:1:100 v/v/v) to give the title compound as a viscous oil which was lyophilized to give a white solid (1.92 g, 48% yield).

reactant | NaBH4 | 2.6 mmol, 0.100 g | [BH4-].[Na+]
reactant | 2-(2,2-difluoro-ethoxy)-6-[3-formyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenoxy]-nicotinonitrile | 12.1 mmol, 5.20 g | FC(COC1=C(C#N)C=CC(=N1)OC1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=O)F | C21H21BF2N2O5
reactant | NaBH4 | 21.5 mmol, 0.815 g | [BH4-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,2-Difluoro-ethoxy)-6-(1-hydroxy-1,3-dihydro-benzo[c][1,2]oxaborol-5-yloxy)-nicotinonitrile | FC(COC1=C(C#N)C=CC(=N1)OC1=CC2=C(B(OC2)O)C=C1)F | C15H11BF2N2O4
